US06162937
(a) Synthesis of 9-acetoxymethylfluorene
A 250 mL Erlenmeyer flask was charged with 9-fluorenemethanol (30.0 g, 153 mmol, Aldrich), sodium acetate (15.0 g, 183 mmol, Aldrich), and acetic anhydride (0.150 L, 1580 mmol, Aldrich). The reaction mixture was heated over a steam bath, under continuous stirring for 4 hours. The warm mixture was poured into ice (150 g). After reaching room temperature, the solid product was isolated by filtration and washed with cold water. The dried product was used without further purification (35.7 g, 150 mmol, 98% yield, >99% purity by GC).

reactant | 9-fluorenemethanol | 153 mmol, 30.0 g | C1=CC=CC=2C3=CC=CC=C3C(C12)CO | C14H12O
reactant | sodium acetate | 183 mmol, 15.0 g | C(C)(=O)[O-].[Na+]
reactant | acetic anhydride | 1580 mmol, 0.150 L | C(C)(=O)OC(C)=O | C4H6O3
product | 9-acetoxymethylfluorene | 98% yield | C(C)(=O)OCC1C2=CC=CC=C2C=2C=CC=CC12 | C16H14O2
